US07776857B2
A RBF was charged with 6-methoxypyridin-3-amine (155 mg, 1.25 mmol), 1-chloro-4-phenylphthalazine (300 mg, 1.25 mmol), and 2-butanol (4 mL). The vessel was sealed and the mixture was stirred overnight at 90° C. LC/MS shows completion of reaction. Reaction cooled to RT and purified by silica gel chromatography (1-5% MeOH/DCM) to afford N-(6-methoxypyridin-3-yl)-4-phenylphthalazin-1-amine as tan solid. MS [M+H]=329.1. Calc'd for C20H6N4O: 328.4. Step 2: In a 25 RBF was added N-(6-methoxypyridin-3-yl)-4-phenylphthalazin-1-amine (290 mg, 0.88 mmol), hydrobromic acid (2.4 mL, 44.2 mmol) and acetic acid (2.5 mL, 43.3 mmol), and a reflux condenser open to air was fitted and the RBF was heated to 130° C., while stirring, for 2 h. The reaction was cooled to RT, the mixture neutralized with 6N NaOH, upon which a yellow solid crashed out. The yellow solid was filtered, washed with water, placed in vacuum oven at 30° C. to dry, to afford 5-(4-phenylphthalazin-1-ylamino)pyridin-2-ol, as light yellow solid. MS [M+H]=315.2. Calc'd for C19H14N4O: 314.3.

reactant | 6-methoxypyridin-3-amine | 1.25 mmol, 155 mg | COC1=CC=C(C=N1)N | C6H8N2O
reactant | 1-chloro-4-phenylphthalazine | 1.25 mmol, 300 mg | ClC1=NN=C(C2=CC=CC=C12)C1=CC=CC=C1 | C14H9ClN2
solvent | 2-butanol | 4 mL | CC(CC)O | C4H10O
product | N-(6-methoxypyridin-3-yl)-4-phenylphthalazin-1-amine | COC1=CC=C(C=N1)NC1=NN=C(C2=CC=CC=C12)C1=CC=CC=C1 | C20H16N4O
